US07482366B2
6-(5-Bromo-furan-2-yl)-1-(2,4-difluoro-benzyl)-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile (310 mg, 0.7 mmoles), 2-(3-Ethylsulfanyl-5-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (287 mg, 0.86 mmoles), tetrakis(triphenylphosphine)palladium (0) (81 mg, 0.07 mmoles), K2CO3 (450 mg, 3.3 mmoles) were combined in 12 ml of DME/H2O (9:1, degassed), and were stirred at 85° C. for 16 hours. After this period the reaction mix was evaporated and purified using flash silica chromatography (0-20% EtOAc/Hexane) to yield 1-(2,4-difluoro-benzyl)-6-[5-(3-ethylsulfanyl-5-trifluoromethyl-phenyl)-furan-2-yl]-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile (0.23 g, 55%) as a yellow residue.

reactant | 6-(5-Bromo-furan-2-yl)-1-(2,4-difluoro-benzyl)-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile | 0.7 mmoles, 310 mg | BrC1=CC=C(O1)C1=CC(=C(C(N1CC1=C(C=C(C=C1)F)F)=O)C#N)C(F)(F)F | C18H8BrF5N2O2
reactant | 2-(3-Ethylsulfanyl-5-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.86 mmoles, 287 mg | C(C)SC=1C=C(C=C(C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C15H20BF3O2S
reactant | K2CO3 | 3.3 mmoles, 450 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME H2O | 12 ml | COCCOC.O
catalyst | tetrakis(triphenylphosphine)palladium | 0.07 mmoles, 81 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,4-difluoro-benzyl)-6-[5-(3-ethylsulfanyl-5-trifluoromethyl-phenyl)-furan-2-yl]-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile | 0.23 g, 55% | FC1=C(CN2C(C(=C(C=C2C=2OC(=CC2)C2=CC(=CC(=C2)C(F)(F)F)SCC)C(F)(F)F)C#N)=O)C=CC(=C1)F | C27H16F8N2O2S
